### PR TITLE
[Merged by Bors] - chore: deprime `induction'` with 5+ variables, part 1

### PR DESCRIPTION
**Pull request by Parcly-Taxel**
Split from #23324 at the behest of @eric-wieser.

### CODE REVIEW

File: Mathlib/Algebra/MvPolynomial/Equiv.lean [hunk 1]
```diff
@@ -432,9 +432,10 @@ theorem finSuccEquiv_X_succ {j : Fin n} : finSuccEquiv R n (X j.succ) = Polynomi
     coefficient of `Finsupp.cons i m` in `f`. -/
 theorem finSuccEquiv_coeff_coeff (m : Fin n →₀ ℕ) (f : MvPolynomial (Fin (n + 1)) R) (i : ℕ) :
     coeff m (Polynomial.coeff (finSuccEquiv R n f) i) = coeff (m.cons i) f := by
-  induction' f using MvPolynomial.induction_on' with j r p q hp hq generalizing i m
+  induction f using MvPolynomial.induction_on' generalizing i m
   swap
-  · simp only [map_add, Polynomial.coeff_add, coeff_add, hp, hq]
+  case add p q hp hq => simp only [map_add, Polynomial.coeff_add, coeff_add, hp, hq]
+  rename_i j r
```
Comment (urkud) [inline Mathlib/Algebra/MvPolynomial/Equiv.lean:438]: Why do you need `rename_i` here?

File: Mathlib/Algebra/Squarefree/Basic.lean [hunk 2]
```diff
@@ -231,10 +231,11 @@ variable [CancelCommMonoidWithZero R] [UniqueFactorizationMonoid R]
 
 lemma _root_.exists_squarefree_dvd_pow_of_ne_zero {x : R} (hx : x ≠ 0) :
     ∃ (y : R) (n : ℕ), Squarefree y ∧ y ∣ x ∧ x ∣ y ^ n := by
-  induction' x using WfDvdMonoid.induction_on_irreducible with u hu z p hz hp ih
-  · contradiction
-  · exact ⟨1, 0, squarefree_one, one_dvd u, hu.dvd⟩
-  · obtain ⟨y, n, hy, hyx, hy'⟩ := ih hz
+  induction x using WfDvdMonoid.induction_on_irreducible with
```
Comment (urkud) [inline Mathlib/Algebra/Squarefree/Basic.lean:234]: Could you please rename assumptions of this lemma from `h0` etc to something meaningful?

File: Mathlib/Computability/Ackermann.lean [hunk 3]
```diff
@@ -272,36 +272,37 @@ theorem ack_pair_lt (m n k : ℕ) : ack m (pair n k) < ack (m + 4) (max n k) :=
...
 theorem exists_lt_ack_of_nat_primrec {f : ℕ → ℕ} (hf : Nat.Primrec f) :
     ∃ m, ∀ n, f n < ack m n := by
-  induction' hf with f g hf hg IHf IHg f g hf hg IHf IHg f g hf hg IHf IHg
-  -- Zero function:
-  · exact ⟨0, ack_pos 0⟩
-  -- Successor function:
-  · refine ⟨1, fun n => ?_⟩
+  induction hf with
+  | zero => exact ⟨0, ack_pos 0⟩ -- Zero function
+  | succ => -- Successor function
```
Comment (urkud) [inline Mathlib/Computability/Ackermann.lean:277]: I think that we can remove the comments now.

File: Mathlib/Algebra/Squarefree/Basic.lean (hunk 2 above)
Comment (Parcly-Taxel) [reply Mathlib/Algebra/Squarefree/Basic.lean:234]: I have addressed your comments.

File: Mathlib/RingTheory/UniqueFactorizationDomain/Defs.lean [hunk 4]
```diff
@@ -55,18 +55,19 @@ theorem exists_irreducible_factor {a : α} (ha : ¬IsUnit a) (ha0 : a ≠ 0) :
     hs.1⟩
 
 @[elab_as_elim]
-theorem induction_on_irreducible {P : α → Prop} (a : α) (h0 : P 0) (hu : ∀ u : α, IsUnit u → P u)
-    (hi : ∀ a i : α, a ≠ 0 → Irreducible i → P a → P (i * a)) : P a :=
+theorem induction_on_irreducible {motive : α → Prop} (a : α)
```
Comment (apnelson1) [inline Mathlib/RingTheory/UniqueFactorizationDomain/Defs.lean:58]: This change isn't like the others. What is the reason for including it here?

File: Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean [hunk 5]
```diff
@@ -385,7 +385,7 @@ theorem exists_SL2_smul_eq_of_apply_zero_one_ne_zero (g : SL(2, ℝ)) (hc : g 1
       (g • · : ℍ → ℍ) =
         (w +ᵥ ·) ∘ (ModularGroup.S • · : ℍ → ℍ) ∘ (v +ᵥ · : ℍ → ℍ) ∘ (u • · : ℍ → ℍ) := by
   have h_denom := denom_ne_zero g
-  induction' g using Matrix.SpecialLinearGroup.fin_two_induction with a b c d h
+  induction g using Matrix.SpecialLinearGroup.fin_two_induction with | h a b c d h => ?_
```
Comment (eric-wieser) [inline Mathlib/Analysis/Complex/UpperHalfPlane/Basic.lean:388]:
```suggestion
  induction g using Matrix.SpecialLinearGroup.fin_two_induction with | _ a b c d h => ?_
```

File: Mathlib/RingTheory/UniqueFactorizationDomain/Defs.lean (hunk 4 above)
Comment (eric-wieser) [reply Mathlib/RingTheory/UniqueFactorizationDomain/Defs.lean:58]: I think this was @urkud's request, but probably this (and others like it) belong in a standalone PR.

**Comment by eric-wieser** [comment]
bors merge

Thanks!
